US04767766
Step G: Preparation of 7-(Hydroxyphenylmethyl)-3-hydroxy-2-phenyl-6-azabenzo[b]thiophene
A solution of 0.61 g (1.8 mmol) of 7-(hydroxyphenylmethyl)-3-methoxymethyl-2-phenyl-6-azabenzo[b]thiophene in 2.7 mL of 2M HCl and 2.7 mL of methanol was heated at reflux for 30 minutes. The solution was cooled and partitioned between ethyl acetate and water. The ethyl acetate layer was dried and concentrated to afford 0.50 g (93%) of white solid, m.p. 214°-215° C.

reactant | 7-(hydroxyphenylmethyl)-3-methoxymethyl-2-phenyl-6-azabenzo[b]thiophene | 1.8 mmol, 0.61 g | OC(C1=NC=CC2=C1SC(=C2COC)C2=CC=CC=C2)C2=CC=CC=C2 | C22H19NO2S
reactant | methanol | 2.7 mL | CO | CH4O
solvent | HCl | 2M, 2.7 mL | Cl | ClH
product | 7-(Hydroxyphenylmethyl)-3-hydroxy-2-phenyl-6-azabenzo[b]thiophene | 0.50 g, 93% | OC(C1=NC=CC2=C1SC(=C2O)C2=CC=CC=C2)C2=CC=CC=C2 | C20H15NO2S
